US07241890B2
A mixture of 3,4-dichlorobenzyl bromide (0.47 g, 1.96 mmol) and Rieke Zinc (3.0 ml, 5 g/100 ml THF, 2.35 mmol) was stirred overnight at r.t. in a flame-dried Schlenk tube and decanted to provide a 0.65M stock solution of 3,4-dichlorobenzyl zinc bromide. A solution of 8-bromo-9-butyl-9H-purin-6-ylamine (42.7 mg, 0.158 mol), Pd(dppf)Cl2 (16.8 mg, 0.020 mmol), and 3,4-dichlorobenzyl zinc bromide (0.61 ml, 0.65M in THF) was stirred in a flame-dried Schlenk tube at 66° C. overnight, quenched with sat. aq. NH4Cl and sat. aq. EDTA., extracted into EtOAc, dried and concentrated. Preparative TLC purification (EtOAc/CH2Cl2/MeOH 14:14:2) provided the title compound as a colorless oil (approx. 15 mg, 20%).

reactant | 3,4-dichlorobenzyl bromide | 1.96 mmol, 0.47 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
reactant | Zinc | 2.35 mmol, 3.0 ml, 5 g | [Zn] | Zn
product | 3,4-dichlorobenzyl zinc bromide | [Br-].ClC=1C=C(C[Zn+])C=CC1Cl | InChI=1S/C7H5Cl2.BrH.Zn/c1-5-2-3-6(8)7(9)4-5;;/h2-4H,1H2;1H;/q;;+1/p-1
